US05959051
The process according to claim 1, wherein said vinylphenol-containing polymerization raw material comprises vinylphenol, non-polymerizable phenols and water, and is a crude reaction product or a partially purified reaction product obtained by dehydrogenation of ethylphenol.

reactant | vinylphenol | C(=C)C1=C(C=CC=C1)O | C8H8O
solvent | water | O | H2O
product | ethylphenol | C(C)C1=C(C=CC=C1)O | C8H10O
